US07902367B2
1-Benzyl perhydroazepin-3-yl methanol
Methyl 1-benzyl-2-oxoperhydroazepine-3-carboxylate (2.39 g, 9.15 mmol) was dissolved in tetrahydrofuran (50 mL). To this solution, lithium aluminum hydride (868 mg, 18.3 mmol) was added and the mixture was stirred for 2 hours while being refluxed. Subsequently, ice water and a 10% aqueous sodium hydroxide solution were added and the mixture was stirred at room temperature for 1 hour. The reaction mixture was then filtered through Celite. The filtrate was extracted with ethyl acetate and the extract washed with brine, followed by drying over magnesium sulfate and evaporation of the solvent. Purification of the residue by silica gel column chromatography (Chromatorex NH-DM2035 (Fuji Sylysia Chemical Co., Ltd.) hexane:ethyl acetate=20:1->3:1) gave 1.30 g (65%) of the desired compound as a colorless oil.

reactant | Methyl 1-benzyl-2-oxoperhydroazepine-3-carboxylate | 9.15 mmol, 2.39 g | C(C1=CC=CC=C1)N1C(C(CCCC1)C(=O)OC)=O | C15H19NO3
reactant | lithium aluminum hydride | 18.3 mmol, 868 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1-Benzyl perhydroazepin-3-yl methanol | 1.30 g, 65% | C(C1=CC=CC=C1)N1CC(CCCC1)CO | C14H21NO
